US06329378B1
Commercially available 2,3 dichloropyrazine was dissolved in a suitable amount of methanol to which was added a slight excess of an alkali methoxide, preferably 1.05 equiv. of sodium methoxide. The mixture was then stirred for a period of 1-24 hr, preferably 7 hr, after which time the solution was neutralized with solid ammonium chloride, the solvent removed in vacuo, the residue taken up in an organic solvent chosen from a group consisting of diethyl ether, ethyl acetate, and methylene chloride, preferably methylene chloride, and filtered to remove unwanted salts. The filtrate was reduced in vacuo to afford 2-methoxy-3-chloro-pyrazine as white crystals which were used without further purification.

reactant | 2,3 dichloropyrazine | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | methoxide | C[O-]
reactant | sodium methoxide | 1.05 equiv. | C[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | 2-methoxy-3-chloro-pyrazine | COC1=NC=CN=C1Cl | C5H5ClN2O
